US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{5-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (730 mg, 1.92 mmol) in N,N-dimethylacetamide (7 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (262 μL, 2.88 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate solution, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (NH silica gel, ethyl acetate) and recrystallized from ethyl acetate-ethanol to give the title compound (529 mg, 61%) as a white solid.

reactant | N-{5-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.92 mmol, 730 mg | NC=1N=C2N(C=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | C19H17FN6O2
reactant | cyclopropanecarbonyl chloride | 2.88 mmol, 262 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 7 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 529 mg, 61% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | C23H21FN6O3
